US07572801B2
In analogy to the procedure described in example 78.1, 2-(3-trifluoromethoxy-phenyl)-ethanol was reacted with ethyl iodoacetate in the presence of silver trifluoromethanesulfonate and 2,6-di-tert-butylpyridin to give [2-(3-trifluoromethoxy-phenyl)-ethoxy]-acetic acid ethyl ester as colorless oil. MS: m/e=293.1 [M+H+].

reactant | 2-(3-trifluoromethoxy-phenyl)-ethanol | FC(OC=1C=C(C=CC1)CCO)(F)F | C9H9F3O2
reactant | ethyl iodoacetate | ICC(=O)OCC | C4H7IO2
reactant | 2,6-di-tert-butylpyridin | C(C)(C)(C)C1=NC(=CC=C1)C(C)(C)C | C13H21N
catalyst | silver trifluoromethanesulfonate | FC(S(=O)(=O)[O-])(F)F.[Ag+]
product | [2-(3-trifluoromethoxy-phenyl)-ethoxy]-acetic acid ethyl ester | C(C)OC(COCCC1=CC(=CC=C1)OC(F)(F)F)=O | C13H15F3O4
